US07825256B2
Thionyl chloride (60 mL) is added dropwise over 30 minutes to a 0° C. solution of 2-(benzo[1,3]dioxol-5-ylmethyl-methyl-amino)-ethanol (22.2 g, 110 mmol) in DCM (250 mL) under nitrogen. The ice bath is removed, and the solution is stirred at room temperature overnight (16 h). The white slurry is concentrated under reduced pressure, diluted with brine (150 mL) and ethyl acetate (200 mL), and the precipitate is collected via vacuum filtration. The solid is washed with ethyl acetate and dried overnight under vacuum to afford 26.5 g (91%) of benzo[1,3]dioxol-5-ylmethyl-(2-chloro-ethyl)-methyl-amine hydrochloride as a white powder.

reactant | Thionyl chloride | 60 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(benzo[1,3]dioxol-5-ylmethyl-methyl-amino)-ethanol | 110 mmol, 22.2 g | O1COC2=C1C=CC(=C2)CN(CCO)C | C11H15NO3
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
product | benzo[1,3]dioxol-5-ylmethyl-(2-chloro-ethyl)-methyl-amine hydrochloride | 26.5 g, 91% | Cl.O1COC2=C1C=CC(=C2)CN(C)CCCl | InChI=1S/C11H14ClNO2.ClH/c1-13(5-4-12)7-9-2-3-10-11(6-9)15-8-14-10;/h2-3,6H,4-5,7-8H2,1H3;1H
